US04642313
8.5 g of ethyl 3-(4-chlorobenzoylamino)-3-(3-furylcarbonyl)propionate, 50 ml of chloroform and 18.6 g of phosphorus oxychloride are treated in the same manner as described in Example 1. 6.93 g of ethyl 2-[2-(4-chlorophenyl)-5-(3-furyl)-4-oxazolyl]acetate are thereby obtained. Yield: 85.5%

reactant | ethyl 3-(4-chlorobenzoylamino)-3-(3-furylcarbonyl)propionate | 8.5 g | ClC1=CC=C(C(=O)NC(CC(=O)OCC)C(=O)C2=COC=C2)C=C1 | C17H16ClNO5
reactant | phosphorus oxychloride | 18.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-[2-(4-chlorophenyl)-5-(3-furyl)-4-oxazolyl]acetate | 6.93 g, Yield: 85.5% | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCC)C1=COC=C1 | C17H14ClNO4
